### PR TITLE
feat(LinearAlgebra/Contraction): bijectivity of `dualTensorHom` + generalize to CommSemiring

### PR DESCRIPTION
**Pull request by alreadydone**
migrated to #40297

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Pi.lean [hunk 1]
```diff
@@ -104,6 +104,16 @@ theorem pi_proj_comp (f : M₂ →ₗ[R] ∀ i, φ i) : pi (proj · ∘ₗ f) =
 theorem proj_surjective (i : ι) : Surjective (proj i : ((i : ι) → φ i) →ₗ[R] φ i) :=
   surjective_eval i
 
+/-- Homs to a pi module are canonically identified with a product of hom types, even linearly so. -/
+def _root_.LinearEquiv.linearMapPi (S) [Semiring S] [(i : ι) → Module S (φ i)]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Pi.lean:108]: Do we really not have this somewhere?

**Comment by alreadydone** [comment]
!bench

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 2]
```diff
@@ -184,12 +275,12 @@ open TensorProduct
 
 open Module TensorProduct LinearMap
 
-section CommRing
+section CommSemiring
 
-variable [CommRing R]
-variable [AddCommGroup M] [AddCommGroup N] [AddCommGroup P] [AddCommGroup Q]
+variable [CommSemiring R]
+variable [AddCommMonoid M] [AddCommMonoid N] [AddCommMonoid P] [AddCommMonoid Q]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Contraction.lean]: I split this to #26802, for ease of benchmarking.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 3]
```diff
@@ -117,6 +126,21 @@ theorem toMatrix_dualTensorHom {m : Type*} {n : Type*} [Fintype m] [Finite n] [D
   rw [and_iff_not_or_not, Classical.not_not] at hij
   rcases hij with hij | hij <;> simp [hij]
 
+/-- If the identity linear map lies in the range of the canonical map `M* ⊗[R] M → Hom_R(M, M)`,
+then `M` is a finite projective `R`-module. -/
+theorem finite_projective_of_one_mem_range_dualTensorHom (h : 1 ∈ range (dualTensorHom R M M)) :
+    Module.Finite R M ∧ Projective R M := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Contraction.lean:132]: I think this would make more sense as two separate lemmas, unless there's precedent for this combination specifically.

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 4]
```diff
@@ -134,10 +158,13 @@ noncomputable def dualTensorHomEquivOfBasis : Module.Dual R M ⊗[R] N ≃ₗ[R]
...
         tmul_smul, smul_tmul', ← sum_tmul, Basis.sum_dual_apply_smul_coord])
 
+theorem coe_dualTensorHomEquivOfBasis :
+    ⇑(dualTensorHomEquivOfBasis (N := N) b) = dualTensorHom R M N := rfl
+
 @[simp]
 theorem dualTensorHomEquivOfBasis_apply (x : Module.Dual R M ⊗[R] N) :
     dualTensorHomEquivOfBasis b x = dualTensorHom R M N x := by
-  ext; rfl
+  rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Contraction.lean:167]: I think for this to work with `dsimp` (in a recent or upcoming lean version) you also have to remove the `by`

File: Mathlib/LinearAlgebra/Pi.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Pi.lean:108]:
```suggestion
@[simps]
def _root_.LinearEquiv.linearMapPi (S) [Semiring S] [(i : ι) → Module S (φ i)]
```
or write your own `rfl` lemmas if these ones look bad

File: Mathlib/RingTheory/Finiteness/Finsupp.lean [hunk 5]
```diff
@@ -15,6 +16,40 @@ import Mathlib.LinearAlgebra.Quotient.Basic
 open Function (Surjective)
 open Finsupp
 
+namespace LinearMap
+
+variable {R M N ι : Type*} (S : Type*) [Semiring R] [AddCommMonoid M] [AddCommMonoid N]
+variable [Module R M] [Module R N] [Semiring S] [Module S N] [SMulCommClass R S N]
+
+/-- The linear map from `Hom(M,N)^(ι)` to `Hom(M,N^(ι))`. -/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Finiteness/Finsupp.lean:24]: Could you mention that this is the finitely-supported version of `LinearEquiv.linearMapPi`?

Given that @kckennylau asked about the above on zulip, can I suggest spinning out a PR with just `.LinearEquiv.linearMapPi` and `.LinearEquiv.finsuppLinearMap`? The names still look a bit wonky to me, and I think a PR with just these results in would help get them right.

File: Mathlib/Data/Finsupp/Defs.lean [hunk 6]
```diff
@@ -353,6 +353,10 @@ lemma mapRange_surjective (e : M → N) (he₀ : e 0 = 0) (he : Surjective e) :
   rw [← Set.range_eq_univ, range_mapRange, he.range_eq]
   simp
 
+lemma mapRange_bijective (e : M → N) (he₀ : e 0 = 0) (he : Bijective e) :
+    Bijective (Finsupp.mapRange (α := α) e he₀) :=
+  ⟨mapRange_injective e he₀ he.1, mapRange_surjective e he₀ he.2⟩
+
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Defs.lean:359]: This one might be worth splitting out just to avoid the cache invalidation that you currently get every time you sync this PR. Do we have the pieces for this result for `DFinsupp` too? I'm happy to add it to the PR you spin out.

File: Mathlib/LinearAlgebra/Contraction.lean (hunk 3 above)
Comment (kckennylau) [reply Mathlib/LinearAlgebra/Contraction.lean:132]: @eric-wieser "finite and projective" is now the standard idiom to refer to the condition we call "locally free" in literature which unfortunately does not exist in Mathlib. This is not a comment for or against the splitting, I just thought I would add more context.

File: Mathlib/RingTheory/Finiteness/Finsupp.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Finiteness/Finsupp.lean:24]: I'm not sure I'll get back to this soon so @kckennylau please feel free to spin off the PR if you need this soonish.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Data/Finsupp/Defs.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Data/Finsupp/Defs.lean:359]: PR migrated to #40297, with all reviews addressed except this one
